US08535655B2
d) 3-(1,3-dihydroxypropan-2-yloxy)-3-oxopropyl 2-propylpentanoate
3-oxo-3-(2-phenyl-1,3-dioxan-5-yloxy)propyl 2-propylpentanoate (2.99 g, 7.9 mmol) was dissolved in ethanol (90 ml) under argon. Palladium catalyst (10 wt % Pd/C) (300 mg) was added, the flask was evacuated and allowed to stir 1 atm of hydrogen gas at room temperature for 16 hours. The crude reaction mixture was passed through a glass microfiber on a sintered funnel. The volatiles were removed under reduced pressure yielding 2.01 g (6.95 mmol, 88%) of a clear oil. The product was used without any further purification

reactant | 3-oxo-3-(2-phenyl-1,3-dioxan-5-yloxy)propyl 2-propylpentanoate | 7.9 mmol, 2.99 g | C(CC)C(C(=O)OCCC(OC1COC(OC1)C1=CC=CC=C1)=O)CCC | C21H30O6
solvent | ethanol | 90 ml | C(C)O | C2H6O
catalyst | Palladium | 300 mg | [Pd] | Pd
product | 3-(1,3-dihydroxypropan-2-yloxy)-3-oxopropyl 2-propylpentanoate | 6.95 mmol, 2.01 g, 88% | C(CC)C(C(=O)OCCC(=O)OC(CO)CO)CCC | C14H26O6
